US04192871
11β-Chloroacetoxy-20,20-ethylenedioxy-5α-pregnan-3α-ol
A solution of 3α,11β-bischloroacetoxy-20,20-ethylenedioxy-5α-pregnane (1 g) in refluxing methanol was stirred whilst a saturated solution of sodium bicarbonate (2.5 ml) was added. The mixture was refluxed until reaction was judged complete (by t.l.c), most of the solvent was evaporated in vacuo and water was added. The crude product was collected by filtration and purified by preparative t.l.c. (ethyl acetate-petroleum ether 1:1) and crystallization from ethyl acetate-petroleum ether to give title compound m.p. 194°-202°, [α]D +44° (c 0.1).

reactant | 3α,11β-bischloroacetoxy-20,20-ethylenedioxy-5α-pregnane | 1 g | ClCC(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C5(C)OCCO5)[C@]4(C[C@@H]([C@@H]3[C@]2(CC1)C)OC(CCl)=O)C | C27H40Cl2O6
reactant | sodium bicarbonate | 2.5 ml | C([O-])(O)=O.[Na+]
solvent | methanol | CO | CH4O
product | 11β-Chloroacetoxy-20,20-ethylenedioxy-5α-pregnan-3α-ol | ClCC(=O)O[C@@H]1[C@@H]2[C@]3(CC[C@H](C[C@@H]3CC[C@H]2[C@@H]2CC[C@H](C3(C)OCCO3)[C@]2(C1)C)O)C | C25H39ClO5
